US09340538B2
1-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)pyrrolidine-2-carboxylic acid
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (1 g, 2 mmol) was reacted with pyrrolidine-2-carboxylic acid (0.23 g, 2 mmol) according to the procedure as described in Example 28 to give the title compound as a yellow solid (0.27 g, 25%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 2 mmol, 1 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC=CN1 | C17H14Br2FN3O2S
reactant | pyrrolidine-2-carboxylic acid | 2 mmol, 0.23 g | N1C(CCC1)C(=O)O | C5H9NO2
product | 1-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)pyrrolidine-2-carboxylic acid | 0.27 g, 25% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=CN1)CN1C(CCC1)C(=O)O)C(=O)OCC | C22H22BrFN4O4S
